US06495551B1
N-[(5S)-3-(3-Fluoro-4-(2-benzothiazolylaminocarbonylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide
N-[(5S)-3-(3-Fluoro-4-(4-carboxyimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide (1.81 g, 5 mM) and 1-hydroxybenzotriazole (0.81 g, 6 mM) were dissolved in DMF (40 ml) and stirred under nitrogen at ambient temperature. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide methiodide (1.78 g, 6 mM) was added, and the mixture stirred at ambient temperature for 2 hours, before adding 2-aminobenzothiazole (0.75 g, 5 mM). After stirring for 5 days, the mixture was diluted slowly with saturated aqueous sodium bicarbonate solution (20 ml), then water added to 250 ml. The fine precipitate was filtered, and recrystallised from a mixture of acetic acid (30 ml) and water (20 ml) to give title product (1 g).

reactant | N-[(5S)-3-(3-Fluoro-4-(4-carboxyimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 5 mM, 1.81 g | FC=1C=C(C=CC1N1C=NC(=C1)C(=O)O)N1C(O[C@H](C1)CNC(C)=O)=O | C16H15FN4O5
reactant | 1-hydroxybenzotriazole | 6 mM, 0.81 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide methiodide | 6 mM, 1.78 g | CCN=C=NCCCN(C)C.CI
reactant | 2-aminobenzothiazole | 5 mM, 0.75 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | N-[(5S)-3-(3-Fluoro-4-(2-benzothiazolylaminocarbonylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 1 g | FC=1C=C(C=CC1N1C(=NC=C1)C(=O)NC=1SC2=C(N1)C=CC=C2)N2C(O[C@H](C2)CNC(C)=O)=O | C23H19FN6O4S
